US04734419
Ethyl N-(2-carbamoyl-4,5-dichlorophenyl)aminoacetate (4.6 g) and N,N'-carbonyldiimidazole (5.12 g) were dissolved in dioxane (50 ml). The solution was evaporated to give a residue, which was stirred at 140° C. for 30 minutes. After cooling, the precipitates were collected by filtration and washed with ethanol to give ethyl 2-(6,7-dichloro-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl)acetate (4.40 g).

reactant | Ethyl N-(2-carbamoyl-4,5-dichlorophenyl)aminoacetate | 4.6 g | C(N)(=O)C1=C(C=C(C(=C1)Cl)Cl)NCC(=O)OCC | C11H12Cl2N2O3
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | ethyl 2-(6,7-dichloro-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl)acetate | 4.40 g | ClC=1C=C2C(NC(N(C2=CC1Cl)CC(=O)OCC)=O)=O | C12H10Cl2N2O4
